US09402838B2
Synthesis of methyl (S)-4-(1-aminoethyl)benzoate hydrochloride
To methyl (S)-4-(1-tert-butoxycarbonylaminoethyl)benzoate (1.00 g, 3.58 mmol), add hydrogen chloride (4 M in dioxane, 5 mL, 20 mmol) and stir the resulting mixture at room temperature for one hour. Concentrate the mixture under reduced pressure to furnish the title compound as a white solid (750 mg, 97% yield). 1H NMR (400 MHz, DMSO-d6): δ 8.57 (br s, 3H), 7.99 (d, J=8.4 Hz, 2H), 7.65 (d, J=8.4 Hz, 2H), 4.47 (q, J=6.7 Hz, 1H), 3.84 (s, 3H), 1.50 (d, J=6.8 Hz, 3H).

reactant | methyl (S)-4-(1-tert-butoxycarbonylaminoethyl)benzoate | 3.58 mmol, 1.00 g | C(C)(C)(C)OC(=O)N[C@@H](C)C1=CC=C(C(=O)OC)C=C1 | C15H21NO4
reactant | hydrogen chloride | 20 mmol, 4 M, 5 mL | Cl | ClH
product | methyl (S)-4-(1-aminoethyl)benzoate hydrochloride | 750 mg, 97% yield | Cl.N[C@@H](C)C1=CC=C(C(=O)OC)C=C1 | InChI=1S/C10H13NO2.ClH/c1-7(11)8-3-5-9(6-4-8)10(12)13-2;/h3-7H,11H2,1-2H3;1H/t7-;/m0./s1
